US06399619B1
Step A: 4-Hydroxy-1-tert-butoxycarbonylpiperidine
4-Hydroxypiperidine (5.0 g, 49 mmol) and sodium bicarbonate (10.3 g, 123 mmol) were dissolved in 250 mL of 33% water in THF. Di-tert-butyl dicarbonate (10.6 g, 49 mmol) was then added and the reaction mixture was stirred at rt overnight. The mixture was diluted with EtOAc and washed with 1 N HCl, 1 N NaOH and brine. The organic layer was then dried over MgSO4 and concentrated to afford 6.8 g (69%) of the title compound. ESI-MS: 201.8 (M+H); HPLC A: 1.94 min.

reactant | 4-Hydroxypiperidine | 49 mmol, 5.0 g | OC1CCNCC1 | C5H11NO
reactant | sodium bicarbonate | 123 mmol, 10.3 g | C([O-])(O)=O.[Na+]
reactant | Di-tert-butyl dicarbonate | 49 mmol, 10.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 250 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Hydroxy-1-tert-butoxycarbonylpiperidine | 6.8 g, 69% | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
